US06025370
In 40 ml of ethanol was dissolved 2.00 g of ethyl 4-azido-2-fluoro-3-methylbenzoate, followed by adding thereto 0.40 g of 5% palladium-carbon, and the resulting mixture was stirred at room temperature for 5 hours under a hydrogen atmosphere. The reaction mixture was filtered and the filtrate was concentrated under reduced pressure. The resulting residue was purified by a column chromatography (eluent; toluene:ethyl acetate=10:1) to obtain 0.75 g of ethyl 4-amino-2-fluoro-3-methylbenzoate as colorless crystals.

reactant | ethyl 4-azido-2-fluoro-3-methylbenzoate | 2.00 g | N(=[N+]=[N-])C1=C(C(=C(C(=O)OCC)C=C1)F)C | C10H10FN3O2
solvent | ethanol | 40 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 0.40 g | [C].[Pd]
product | ethyl 4-amino-2-fluoro-3-methylbenzoate | 0.75 g | NC1=C(C(=C(C(=O)OCC)C=C1)F)C | C10H12FNO2
